US04917826
N-Cyclohexyl-N'-dodecyl-1,3-propanediamine
Following the general procedure of Example 33, but starting with N-dodecyl-1,3-propanediamine and cyclohexanone, the title compound is produced; IR νmax (neat) 3292, 2925, 2854, 2810, 1466, 1450, 1367, 1130 and 721 cm-1. (PLA2)

reactant | N-dodecyl-1,3-propanediamine | C(CCCCCCCCCCC)NCCCN | C15H34N2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | N-Cyclohexyl-N'-dodecyl-1,3-propanediamine | C1(CCCCC1)NCCCNCCCCCCCCCCCC | C21H44N2
